US08097634B2
8-Ethyl-2-(4-trifluoromethoxy-phenyl)-2,8-diaza-spiro[4.5]decane-1,7-dione
This material was prepared as a off-white solid in analogy to example 1 step E) from 2-(4-trifluoromethoxy-phenyl)-2,8-diaza-spiro[4.5]decane-1,7-dione and ethyl iodide. MS (ESI): 357.1 (MH+).

reactant | 2-(4-trifluoromethoxy-phenyl)-2,8-diaza-spiro[4.5]decane-1,7-dione | FC(OC1=CC=C(C=C1)N1C(C2(CC1)CC(NCC2)=O)=O)(F)F | C15H15F3N2O3
reactant | ethyl iodide | C(C)I | C2H5I
product | 8-Ethyl-2-(4-trifluoromethoxy-phenyl)-2,8-diaza-spiro[4.5]decane-1,7-dione | C(C)N1C(CC2(CCN(C2=O)C2=CC=C(C=C2)OC(F)(F)F)CC1)=O | C17H19F3N2O3
